Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chronic right ___ pain and ishcemia
 
Major Surgical or Invasive Procedure:
Right below-knee amputation

 
History of Present Illness:
___ s/p R SFA-AT bypass graft with NRSVG
___ presents from ___ for ischemic right
foot.  She reports that she broke her hip in 3 places last
___ and since then has had chronic ischemic leg pain. She
reports symptoms of both claudication and rest pain.  She has
required large amounts of pain medication at home.  She denies
fevers, chills, nausea, vomiting and diarrhea.  She denies
hematochezia and consipation.  She has a history of
seizure/syncope of unknown origin worked up by neurology. She
reports that her last episode was this past ___. She also
reports that her carotid US was negative for significant 
disease.

 
Past Medical History:
- h/o DVT
- DMI on insulin pump  
- Peripheral neuropathy
- h/o gastroparesis
- Chronic LBP/sciatica
- HTN  
- Hyperlipidemia  
- Hypothyroidism  
- PVD/PAD
- Autonomic dysfunction, orthostatic hypotension
- History of seizure ___ characterized by becoming less 
responsive, oriented to name only, gaze deviation and left arm 
shaking. ___ 297 and was in the setting of receiving cipro, Neuro 
felt ___ infection vs PRES.
- Barretts Esophagus on EGD ___
- Depression
.  
PAST SURGICAL HISTORY:  
___ - Malunion right intertrochanteric hip fracture with 
protrusion of screw s/p revision arthroplasty  
___ Comminuted right intertrochanteric hip fracture s/p right 
hip fracture open reduction internal fixation (intramedullary 
nail)  
___ RLE angiography  
RLE SFA-AT BPG with NRSVG ___  
Angioplasty of vein graft ___  
___, L hip hemiarthroplasty  
- Hiatal hernia  
- s/p laminectomy
- s/p hysterectomy
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___. Father - coronary artery disease with MI in her ___, died at 
age ___.  

 
Physical Exam:
PHYSICAL EXAM
Vital Signs: Temp: 94.5 RR: 18 Pulse: 84 BP: 185/81  
Neuro/Psych: NAD, abnormal: Persistent rest tremor, some
difficulty talking. 
Neck: No masses, Trachea midline, Thyroid normal size,
non-tender, no masses or nodules, No right carotid bruit, No 
left
carotid bruit. 
Nodes: No clavicular/cervical adenopathy, No inguinal 
adenopathy.

Skin: No atypical lesions. 
Heart: Regular rate and rhythm. 
Lungs: Clear, Normal respiratory effort. 
Gastrointestinal: Non distended, No masses, Guarding or rebound,
No hepatosplenomegally, No hernia, No AAA. 
Extremities: No popiteal aneurysm, No femoral bruit/thrill, No
RLE edema, No LLE Edema, No varicosities, No skin changes,
abnormal: Warm right foot, intense pain to touch. 
 
Pulse Exam (P=Palpation, D=Dopplerable, N=None)
RUE Radial: P. Ulnar: D. Brachial: D. 
LUE Radial: P. Ulnar: D. Brachial: D. 
RLE Femoral: P. Popiteal: D. DP: N. ___: N. Other: ?venous ___. 

LLE Femoral: P. Popiteal: D. DP: D. ___: D. 

 
Pertinent Results:
___ 07:50AM BLOOD WBC-6.8 RBC-3.59*# Hgb-11.2*# Hct-33.3*# 
MCV-93 MCH-31.3 MCHC-33.7 RDW-14.9 Plt ___
___ 10:55AM BLOOD WBC-8.2 RBC-2.71* Hgb-8.6* Hct-25.6* 
MCV-94 MCH-31.6 MCHC-33.4 RDW-14.4 Plt ___
___ 07:55AM BLOOD ___ PTT-29.6 ___
___ 07:50AM BLOOD Glucose-275* UreaN-32* Creat-1.0 Na-135 
K-4.6 Cl-96 HCO3-27 AnGap-17
___ 06:55AM BLOOD Glucose-144* UreaN-22* Creat-1.2* Na-138 
K-4.4 Cl-101 HCO3-28 AnGap-13
___ 07:50AM BLOOD Calcium-9.0 Phos-4.1 Mg-1.8
___ 06:55AM BLOOD Calcium-8.6 Phos-3.4 Mg-1.7
 
Brief Hospital Course:
The patient was admitted to the vascular surgery service for 
evaluation and treatment or persistent RLE ischemia and pain.  
Patient has been followed by Dr. ___ it was decided 
that patient would benefit from a RLE BKA for pain relief and 
continued treatment of severe ___ ischemia.  Patient tolerated 
the procedure well and was closely monitored postoperatively in 
the PACU and transfered to the Vascular floor on PODO for 
furhter management/monitoring.  Patient was returned to home 
medications on POD1.
 
Neuro: The patient received MS contin, dilaudid po and IV with 
moderate effect and adequate pain control. When tolerating oral 
intake, the patient was transitioned to oral pain medications.  
Chronic pain service was consulted and their input was much 
appreciated for the management of inpatient pain medication and 
reccomendations for outpatient management.  Discharge plan for 
pain control is 45 mg MS ___ TID and ___ mg dilaudid Q4hr. 
 
CV:  The patient was stable from a cardiovascular standpoint;  
vital signs were routinely monitored.
 
Pulmonary:  The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.  Good pulmonary toilet, 
early ambulation and incentive spirometry were encouraged 
throughout this hospitalization.  
 
GI/GU/FEN: 
Post operatively, the patient was made NPO with IVF.  
The patient's diet was advanced when appropriate, which was 
tolerated well.  
The patient's intake and output were closely monitored, and IVF 
were adjusted when necessary.  Patient foley was d/c's on POD2.  
The patient's electrolytes were routinely followed during this 
hospitalization, and repleted when necessary.  
 
ID: The patient's white blood count and fever curves were 
closely watched for signs of infection. Patient was treated with 
broad spectrim antiobiotics which were continued until POD 2 at 
which time any possible infections source was assumed to be 
removed with the BKA and antiobiotics were discontinues with 
additional decreases in white count over the following days.
 
Endocrine:  The patient's blood sugar was monitored throughout 
this stay; insulin dosing was adjusted accordingly with the 
assistance ___.
 
Hematology:  The patient's complete blood count was examined 
routinely; Patient was transfused 2 units PRBC on POD3 for HCT 
of 25.6 with appropriate response to 33.3
 
Prophylaxis:  The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible.  
 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  

 
Medications on Admission:
___: Calcitriol 0.5', Plavix 75', Cyclosporine gtt 0.05'', 
Gabapentin 800', Lantus 12units QHS, Lispro insulin pump, 
Synthroid 88', Ativan 0.5', Reglan 10QACH, MS-contin 60 AM, 30 
QHS, Omeprazole 20', oxycodone PRN, Sertraline 100', Simvastatin 
40', ASA 81'  

 
Discharge Medications:
1. levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime). Tablet(s) 
3. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
9. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  
10. diazepam 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
11. miconazole nitrate 2 % Powder Sig: One (1) Appl Topical BID 
(2 times a day) as needed for rash.  
12. cyclosporine 0.05 % Dropperette Sig: One (1) Dropperette 
Ophthalmic DAILY (Daily).  
13. travoprost 0.004 % Drops Sig: One (1)  Ophthalmic HS (at 
bedtime).  
14. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
16. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
17. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for prn pain.  
18. heparin (porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day) as needed for DVT prophylaxis.  
19. morphine 15 mg Tablet Extended Release Sig: Three (3) Tablet 
Extended Release PO TID (3 times a day).  
20. gabapentin 400 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
21. glucagon (human recombinant) 1 mg Recon Soln Sig: One (1) 
Recon Soln Injection Q15MIN () as needed for hypoglycemia 
protocol.  
22. insulin glargine 100 unit/mL Solution Sig: Twenty (20) Units 
Subcutaneous breakfast.  
23. insulin glargine 100 unit/mL Solution Sig: ___ (24) 
Units Subcutaneous Bedtime.  
24. insulin regular human 100 unit/mL Solution Sig: One (1) 
Units Injection four times a day: Please see insuling dosing 
sheet for sliding scale.  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
RLE ishcemia and pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
This information is designed as a guideline to assist you in a 
speedy recovery from your surgery. Please follow these 
guidelines unless your physician has specifically instructed you 
otherwise. Please call our office nurse if you have any 
questions. Dial 911 if you have any medical emergency.
ACTIVITY: 
There are restrictions on activity. On the side of your 
amputation you are non weight bearing for ___ weeks. You should 
keep this amputation site elevated when ever possible. 
No driving until cleared by your Surgeon.
PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
Redness in or drainage from your leg wound(s).
New pain, numbness or discoloration of your stump site.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR. 
Exercise:
Limit strenuous activity for 6 weeks. 
Do not drive a car unless cleared by your Surgeon.  
Try to keep leg elevated when able.
BATHING/SHOWERING: 
You may shower immediately upon coming home. No bathing. A 
dressing may cover you’re amputation site and this should be 
left in place for three (3) days. Remove it after this time and 
wash your incision(s) gently with soap and water. You will have 
sutures, which are usually removed in 4 weeks. This will be done 
by the Surgeon on your ___ appointment.
WOUND CARE:
When the sutures are removed the doctor may or may not place 
pieces of tape called steri-strips over the incision. These will 
stay on about a week and you may shower with them on. If these 
do not fall off after 10 days, you may peel them off with warm 
water and soap in the shower.
Avoid taking a tub bath, swimming, or soaking in a hot tub for 
four weeks after surgery. 
MEDICATIONS: 
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery. You will be given a 
new prescription for pain medication, which can be taken every 
three (3) to four (4) hours only if necessary. 
Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods in your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day.
CAUTIONS:
NO SMOKING! We know you've heard this before, but it really is 
an important step to your recovery. Smoking causes narrowing of 
your blood vessels which in turn decreases circulation. If you 
smoke you will need to stop as soon as possible. Ask your nurse 
or doctor for information on smoking cessation.
Avoid pressure to your amputation site.
No strenuous activity for 6 weeks after surgery. 
DIET:
There are no special restrictions on your diet postoperatively. 
Poor appetite is expected for several weeks and small, frequent 
meals may be preferred. 
For people with vascular problems we would recommend a 
cholesterol lowering diet: Follow a diet low in total fat and 
low in saturated fat and in cholesterol to improve lipid profile 
in your blood. Additionally, some people see a reduction in 
serum cholesterol by reducing dietary cholesterol. Since a 
reduction in dietary cholesterol is not harmful, we suggest that 
most people reduce dietary fat, saturated fat and cholesterol to 
decrease total cholesterol and LDL (Low Density Lipoprotein-the 
bad cholesterol). Exercise will increase your HDL (High Density 
Lipoprotein-the good cholesterol) and with your doctor's 
permission, is typically recommended. You may be self-referred 
or get a referral from your doctor. 
If you are overweight, you need to think about starting a weight 
management program. Your health and its improvement depend on 
it. We know that making changes in your lifestyle will not be 
easy, and it will require a whole new set of habits and a new 
attitude. If interested you can may be self-referred or can get 
a referral from your doctor. 
If you have diabetes and would like additional guidance, you may 
request a referral from your doctor.
___ APPOINTMENT: 
Be sure to keep your medical appointments. The key to your 
improving health will be to keep a tight reign on any of the 
chronic medical conditions that you have. Things like high blood 
pressure, diabetes, and high cholesterol are major villains to 
the blood vessels. Don't let them go untreated! 
Please call the office on the first working day after your 
discharge from the hospital to schedule a ___ visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.
PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE

 
Followup Instructions:
___